US08541588B2
2-(biphenyl-2-yloxy)-5-bromo-benzonitrile
A suspension of 5-bromo-2-fluorobenzonitrile (6.48 g, 32.4 mmol), 2-phenylphenol (5.79 g, 34 mmol) and potassium carbonate (4.92 g, 35.6 mmol) in DMF (50 ml) was heated at 70° C. for 3 hours. The reaction was cooled and quenched by the addition of water (200 ml) followed by extraction with tBuOMe. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was purified using silica gel column chromatography (ethyl acetate:Heptane 5:95 to 15:85) to furnish 10.1 g of the desired compound. LCMS Rt=1.78 min MS m/z 349 [M]+1HNMR (d6-DMSO): δ 6.6 (m, 1H), 7.2-7.6 (m, 9H), 7.65 (m, 1H), 8.0 (m, 1H).

reactant | 5-bromo-2-fluorobenzonitrile | 32.4 mmol, 6.48 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 2-phenylphenol | 34 mmol, 5.79 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | potassium carbonate | 35.6 mmol, 4.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(biphenyl-2-yloxy)-5-bromo-benzonitrile | 10.1 g | C1(=C(C=CC=C1)OC1=C(C#N)C=C(C=C1)Br)C1=CC=CC=C1 | C19H12BrNO
